US07462624B2
Step B: 8-methyl-4-pentyl-1,4-dihydro-5H-[1,2,4]triazolo[5,1-i]purin-5-one
To a solution of 5-(3-methyl-1H-1,2,4-triazol-5-yl)-N-pentyl-1H-imidazol-4-amine (45 mg, 0.19 mmol) in THF (10 mL) at 0° C. was added phosgene in toluene (0.3 mL, 1.0 mmol). The reaction mixture was slowly warmed to room temperature while stirring. The reaction mixture was concentrated under reduced pressure, and the residue was purified by preparative LCMS (method A) to provide the desired product (25 mg, 50% yield) as a white powder. LCMS calculated for C12H17N6O (M+H): 261.1; found: 261.1.

reactant | 5-(3-methyl-1H-1,2,4-triazol-5-yl)-N-pentyl-1H-imidazol-4-amine | 0.19 mmol, 45 mg | CC1=NNC(=N1)C1=C(N=CN1)NCCCCC | C11H18N6
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | toluene | 1.0 mmol, 0.3 mL | C1(=CC=CC=C1)C | C7H8
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 8-methyl-4-pentyl-1,4-dihydro-5H-[1,2,4]triazolo[5,1-i]purin-5-one | 25 mg, 50% yield | CC1=NN2C(N(C=3N=CNC3C2=N1)CCCCC)=O | C12H16N6O
